US07645789B2
Step d: (S)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-2-(1-hydroxy-2-methylpropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide
DMF (3 drops) was added to a stirring mixture of 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (187 mg, 0.8 mmol) and thionyl chloride (0.13 mL, 1.8 mmol). After 30 minutes a clear solution had formed. A small amount was mixed piperidine to test that the acid chloride had been formed. The solution was concentrated on the rotovap and then toluene (1 mL) was added and the mixture was concentrated again. The toluene step was repeated once more and the residue was placed on high vacuum for 10 minutes. The acid chloride was then dissolved in dichloromethane (2 mL) and added to a mixture of (S)-2-(5-amino-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-1H-indol-2-yl)-2-methylpropan-1-ol (200 mg, 0.6 mmol) and triethylamine (0.25 mL, 1.8 mmol) in dichloromethane (4 mL). The reaction was stirred at room temperature for 45 minutes. The reaction was washed with 1N HCl solution, saturated NaHCO3 solution and brine, dried over MgSO4 and concentrated to yield the product as a black foamy solid (320 mg, 96%). ESI-MS m/z calc. 560.6, found 561.5 (M+1)+. Retention time 2.05 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.31 (s, 1H), 7.53 (s, 1H), 7.42-7.40 (m, 2H), 7.34-7.30 (m, 3H), 6.24 (s, 1H), 4.84 (t, J=5.5 Hz, 1H), 4.51-4.46 (m, 1H), 4.41-4.32 (m, 2H), 4.08 (dd, J=6.0, 8.3 Hz, 1H), 3.71-3.67 (m, 1H), 3.58-3.50 (m, 2H), 1.48-1.45 (m, 2H), 1.40 (s, 3H), 1.34-1.33 (m, 6H), 1.18 (s, 3H) and 1.14-1.12 (m, 2H) ppm.

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.8 mmol, 187 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)O)F | C11H8F2O4
reactant | thionyl chloride | 1.8 mmol, 0.13 mL | S(=O)(Cl)Cl | Cl2OS
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | (S)-2-(5-amino-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-1H-indol-2-yl)-2-methylpropan-1-ol | 0.6 mmol, 200 mg | NC=1C=C2C=C(N(C2=CC1F)C[C@@H]1OC(OC1)(C)C)C(CO)(C)C | C18H25FN2O3
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (S)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-2-(1-hydroxy-2-methylpropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | 320 mg, 96% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2F)C[C@@H]2OC(OC2)(C)C)C(CO)(C)C)F | C29H31F3N2O6
